US07855290B2
N-(4-Fluorophenyl)-N′-[4-({2-[(pyrrolidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)phenyl]cyclopropane-1,1-dicarboxamide
Pyrrolidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide (112 mg) and 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylic acid (87.4 mg) were dissolved in N,N-dimethylformamide (4 ml), and diisopropylethylamine (0.341 ml) and HBTU (203 mg) were added under a nitrogen atmosphere at room temperature, followed by stirring for 3 hr. The reaction mixture was partitioned after addition of ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml) and brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:7, then ethyl acetate). Fractions containing the target compound were concentrated under reduced pressure, and to the residue (133.0 mg) were added tert-butyl methyl ether (4 ml) and heptane (4 ml) to suspend a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as pale yellow powder (111.1 mg, 62.0%).

reactant | Pyrrolidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 112 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1 | C16H18N4O2
reactant | 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylic acid | 87.4 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | diisopropylethylamine | 0.341 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 203 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-(4-Fluorophenyl)-N′-[4-({2-[(pyrrolidin-1-ylcarbonyl)amino]pyridin-4-yl}oxy)phenyl]cyclopropane-1,1-dicarboxamide | 111.1 mg, 62.0% | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1 | C27H26FN5O4
